US04680146
1000 g of 4.5% strength by weight sodium hydroxide solution and 3 g of 4,4'-dinitrostilbene-2,2'-disulphonic acid are initially taken at 70° C. 124 g of 87.2% strength finely powdered 4,4'-dinitrodibenzyl-2,2'-disulphonic acid and 430 g of 6.19% strength by weight aqueous potassium hydroxide solution are added in small portions (approximately 20 portions) at 70° C. 50 l/hour of oxygen and 20 l/hour of air are passed into the reaction mixture for the whole duration of the experiment. After the mixture has been stirred for a further 2 hours at 70° C., a further 6 g of 100% strength by weight potassium hydroxide solution are added and the mixture is neutralized with 210 g of 30% strength by weight hydrochloric acid. 145 g of moist dipotassium 4,4'-dinitrostilbene-2,2'-disulphonate, corresponding to 124.7 g of dry material are isolated by filtration. The yield is found to be 97.2% of theory according to analysis by means of the HPLC method.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | 4,4'-dinitrostilbene-2,2'-disulphonic acid | 3 g | [N+](=O)([O-])C=1C=C(C(=CC1)C=CC=1C(=CC(=CC1)[N+](=O)[O-])S(=O)(=O)O)S(=O)(=O)O | C14H10N2O10S2
reactant | potassium hydroxide | [OH-].[K+]
reactant | oxygen | O=O | O2
reactant | hydrochloric acid | Cl | ClH
product | dipotassium 4,4'-dinitrostilbene-2,2'-disulphonate | 145 g | [N+](=O)([O-])C=1C=C(C(=CC1)C=CC=1C(=CC(=CC1)[N+](=O)[O-])S(=O)(=O)[O-])S(=O)(=O)[O-].[K+].[K+] | InChI=1S/C14H10N2O10S2.2K/c17-15(18)11-5-3-9(13(7-11)27(21,22)23)1-2-10-4-6-12(16(19)20)8-14(10)28(24,25)26;;/h1-8H,(H,21,22,23)(H,24,25,26);;/q;2*+1/p-2
